US07319101B2
a) Methyl 6-((E)-2-dimethylcarbamoyl-vinyl)-2,2-diphenyl-1,3-benzodioxole-4-carboxylate
A solution of methyl 6-bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylate (130 mg, 0.32 mmol), N,N-dimethylacrylamide (47 mg, 0.47 mmol, 1.5 eq.), P(OPh)3 (980 mg, 3.16 mmol, 10 eq.), Bu4NBr (20 mg, 0.06 mmol, 0.2 eq.), Na2CO3 (40 mg, 0.38 mmol, 1.2 eq.) and Pd(OAc)2 (10 mg, 0.03 mmol, 0.1 eq.) in 10 mL dimethylacetamide was stirred at 140° C. for 72 h. After cooling to r.t. the mixture was partitioned between EtOAc and H2O. The organic layer was washed twice with saturated NaCl solution, dried over MgSO4 and evaporated in vacuo. The crude product was purified using flash chromatography (silica gel, hexane/EtOAc 5:1→3:2) to yield the desired compound as a colorless, slowly solidifying viscous oil.

reactant | methyl 6-bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylate | 0.32 mmol, 130 mg | BrC=1C=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)OC | C21H15BrO4
reactant | N,N-dimethylacrylamide | 0.47 mmol, 47 mg, 1.5 eq. | CN(C(C=C)=O)C | C5H9NO
reactant | P(OPh)3 | 3.16 mmol, 980 mg, 10 eq. | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | Na2CO3 | 0.38 mmol, 40 mg, 1.2 eq. | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Bu4NBr | 0.06 mmol, 20 mg, 0.2 eq. | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | dimethylacetamide | 10 mL | CC(=O)N(C)C | C4H9NO
catalyst | Pd(OAc)2 | 0.03 mmol, 10 mg, 0.1 eq. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Methyl 6-((E)-2-dimethylcarbamoyl-vinyl)-2,2-diphenyl-1,3-benzodioxole-4-carboxylate | CN(C(=O)/C=C/C=1C=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)OC)C | C26H23NO5
